US08809525B2
Selenium dioxide (30.0 g 270 mmol) was dissolved in dioxane (450 mL) and warmed to 50° C. 3,5-Dichloroacetophenone (30.0 g, 158 mmol) was added at at this temperature and the resulting mixture was refluxed for 4 h. After completion of the reaction, the mixture was filtered through celite and concentrated in vacuo. (3,5-Dichlorophenyl)(oxo)acetic acid was isolated and purified by column chromatography, eluting with ethyl acetate/hexane mixtures (28 g, 80%).

reactant | Selenium dioxide | 270 mmol, 30.0 g | [Se](=O)=O | O2Se
reactant | 3,5-Dichloroacetophenone | 158 mmol, 30.0 g | CC(=O)C1=CC(=CC(=C1)Cl)Cl | C8H6Cl2O
reactant | dioxane | 450 mL | O1CCOCC1 | C4H8O2
product | (3,5-Dichlorophenyl)(oxo)acetic acid | ClC=1C=C(C=C(C1)Cl)C(C(=O)O)=O | C8H4Cl2O3
